US05075330
2-[(2,6-Dichloro-3-methylphenyl)amino]benzoic acid (8.4 g, 28.5 mmol) and carbonyl diimidazole (6.9 g, 42.7 mmol) are stirred in 300 ml THF under argon for two hours. Malonic acid monoethyl ester, magnesium salt (24.0 g, 85.4 mmol) is added and the reaction mixture is warmed to reflux for 15 hours. The solvent is evaporated, and the residue partitioned between ethyl acetate and lN HCl. The pH of the aqueous layer is adjusted to pH=1 with concentrated HCl. The aqueous layer is extracted with ethyl acetate. The organic layer is washed with 1N HCl, and with saturated sodium bicarbonate, and then dried over magnesium sulfate and evaporated. The solid remaining is taken up in ethyl acetate and adsorbed onto a silica gel pad. The pad is washed with chloroform. Evaporation of the chloroform gives crude β-keto ester which is treated with 30% water/trifluoroacetic acid at reflux for two hours. The trifluoroacetic acid is evaporated, and the residue is taken up in diethyl ether. The ether solution is washed with 100 ml of saturated sodium bicarbonate three times. It is dried over magnesium sulfate, and evaporated. The remaining solid is taken up in methylene chloride and adsorbed onto a silica gel pad. This pad is washed with methylene chloride. Evaporation of the solvent gives a yellow solid. Recrystallization from methylene chloride/hexane gives 6.5 g (42%) of 1-[2-[(2,6-dichloro-3-methylphenyl) amino]phenyl]ethanone; mp 130°- 132° C.

reactant | 2-[(2,6-Dichloro-3-methylphenyl)amino]benzoic acid | 28.5 mmol, 8.4 g | ClC1=C(C(=CC=C1C)Cl)NC1=C(C(=O)O)C=CC=C1 | C14H11Cl2NO2
reactant | carbonyl diimidazole | 42.7 mmol, 6.9 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | Malonic acid monoethyl ester | C(C)OC(CC(=O)O)=O | C5H8O4
reactant | water trifluoroacetic acid | O.FC(C(=O)O)(F)F
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | 1-[2-[(2,6-dichloro-3-methylphenyl) amino]phenyl]ethanone | 6.5 g, 42% | ClC1=C(C(=CC=C1C)Cl)NC1=C(C=CC=C1)C(C)=O | C15H13Cl2NO
